Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Mechanical fall, large left pleural effusion
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ with PmHX notable for longstanding anemia, CAD, CKD, and 
dementia who presents following an unwitnessed fall and head 
strike that occurred at his nursing facility this morning. There 
is concern that he fell out of his bed.  He underwent 
non-concerning CT Head/Neck in ED but with new incidental 
finding of large L pleural effusion on the background of 
multiple pulmonary nodules on Chest CT/CXR concerning for 
underlying metastatic malignancy. 

Nursing facility staff found patient on the ground alert but 
with minimal bleeding in back of head, so he was brought in for 
evaluation. 

On arrival in the ED, patient was alert (AxOx1 at baseline) and 
with stable vital signs (T 98.7 BP 134/66 HR 90 RR 20 95%SaO2 on 
RA). Denied any symptoms such as headache, N/V, or visual 
changes. Also denied any recent changes in respiratory status 
including new SOB, increased WOB, or cough. Exam notable for
AxOx1, minimal dried blood on back of head, no focal neurologic 
deficits, lung exam with crackles in the L lingular area and no 
breath sounds appreciated in LLL c/w location of pleural 
effusion. CT Head/neck with no evidence of acute bleed and/or of 
traumatic misalignment or acute fracture of the neck. Chest CT
showing large L pleural effusion with evidence of atelectasis.
Labs notable for CBC with Hgb 9.7 and WBC 9.1. Chem 10 showing 
Cr 1.4 and BUN 26. Patient stable upon transfer to floor, with 
workup ongoing for cause of newly identified pleural effusion. 

On arrival to the floor, patient comfortable appearing and lying 
in bed. Unable to participate in interview, though was AxOx1 
(baseline). Extremely hard of hearing, so had to repeat basic 
questions very loudly to illicit responses. Daughter (___) at 
the bedside. A basic description of ED course and plan for
continued hospital workup provided to daughter, who was amenable 
to the plan. The possibility of underlying malignancy as 
possible cause of new pleural effusion was communicated.  
Daughter expressed that she would prefer he be in the hospital 
for as little time as possible, given her concerns about his 
underlying dementia and the possibility of worsening confusion 
in a new
environment. Patient not endorsing any symptoms.

REVIEW OF SYSTEMS:  Unable to obtain given dementia

 
Past Medical History:
- CAD s/p stent
- CKD (unknown baseline Cr)
- multiple TIAs
- dementia ___ years) - alert to self, interactive with family, 
short phrases
- cancer of the larynx at ___ (s/p radiation, no chemotherapy)
- hard of hearing 

 
Social History:
___
Family History:
Non contributory. 
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
=======================
VITALS:  98.8 112 / 53 74 18 92 RA 
GENERAL: sleepy but arousable with loud stimuli (hard of
hearing), able to smile and outstretch hands, state a few words,
recognizes self and family
HEENT: dried blood on back of head, left surgical pupil, right
pupil reactive, conjugate gaze, MMM
NECK: No notable lymphadenopathy
CARDIAC: RRR, nl S1/S2, no m/g/r appreciated.  
LUNGS: Clear to auscultation on the R. Crackles appreciated in L
lingular region, with no breath sounds on exam at L lower base.  

ABDOMEN: Soft, nontender, nondistended. +BS. No
hepatosplenomegaly or masses appreciated.  
EXTREMITIES: WWP, 1+ distal pulses.  
SKIN: No evidence of suspicious rashes or lesions. Dried blood 
in
back of head, no notable laceration. Diffuse senile purpura.  
NEUROLOGIC:AxOx1 (per baseline). Symmetrical smile. ROM grossly
intact, patient moving all extremities. Non-participatory on
strength and sensation testing.  

DISCHARGE PHYSICAL EXAM:
=======================
VS: 97.4 106 / 60 74 18 100 2L 
GENERAL: smiling and interactive with family, hard of hearing, 
able to state a few words, recognizes self and family
HEENT: left surgical pupil, right pupil reactive, conjugate 
gaze, MMM
CARDIAC: RRR, nl S1/S2, no m/g/r appreciated.  
LUNGS: comfortably breathing, clear to auscultation on the R. 
Crackles appreciated in L lingular region, with no breath sounds 
on exam at L lower base.  
ABDOMEN: Soft, nontender, nondistended. +BS. No 
hepatosplenomegaly or masses appreciated.  
EXTREMITIES: WWP, 1+ distal pulses.  
SKIN: No evidence of suspicious rashes or lesions. Dried blood 
in back of head, no notable laceration. Diffuse senile purpura.  

NEUROLOGIC:AxOx1 (per baseline). Symmetrical smile. ROM grossly 
intact, patient moving all extremities. Non-participatory on 
strength and sensation testing.  
 
Pertinent Results:
ADMISSION LABS:
==============
___ 07:30AM BLOOD WBC-9.1 RBC-3.30* Hgb-9.7* Hct-31.2* 
MCV-95 MCH-29.4 MCHC-31.1* RDW-15.6* RDWSD-53.6* Plt ___
___ 07:30AM BLOOD Neuts-86.0* Lymphs-5.7* Monos-7.4 
Eos-0.0* Baso-0.1 Im ___ AbsNeut-7.81* AbsLymp-0.52* 
AbsMono-0.67 AbsEos-0.00* AbsBaso-0.01
___ 08:07AM BLOOD ___ PTT-26.3 ___
___ 07:30AM BLOOD Ret Aut-1.1 Abs Ret-0.04
___ 07:30AM BLOOD Glucose-136* UreaN-26* Creat-1.4* Na-142 
K-5.1 Cl-103 HCO3-23 AnGap-16
___ 07:30AM BLOOD ALT-14 AST-16 LD(LDH)-243 AlkPhos-83 
TotBili-0.5
___ 07:30AM BLOOD Lipase-18
___ 07:30AM BLOOD cTropnT-0.02*
___ 10:45AM BLOOD cTropnT-0.02*
___ 07:30AM BLOOD Albumin-3.7
___ 05:50AM BLOOD Calcium-8.9 Phos-2.5* Mg-2.1

DISCHARGE LABS:
==============
___ 05:30AM BLOOD WBC-6.6 RBC-2.95* Hgb-8.9* Hct-27.8* 
MCV-94 MCH-30.2 MCHC-32.0 RDW-15.7* RDWSD-53.7* Plt ___
___ 05:30AM BLOOD Glucose-82 UreaN-20 Creat-1.3* Na-144 
K-4.1 Cl-106 HCO3-27 AnGap-11
___ 05:30AM BLOOD Calcium-8.8 Phos-2.7 Mg-2.1

IMAGING:
=======
___ CT HEAD W/O CONTRAST
1. No evidence of acute intracranial abnormality. 
2. Mild swelling overlying the left parietal calvarium without 
evidence of 
acute fracture. 

___ CT C-SPINE W/O CONTRAST
1. Diffuse moderate to severe degenerative changes of the 
cervical spine 
without evidence of traumatic malalignment or acute fractures. 
2. Large left pleural effusion. 

___ CT CHEST W/O CONTRAST
1. No evidence of acute fractures. 
2. Large left-sided simple appearing pleural effusion with 
overlying 
compressive atelectasis. 
3. Multiple left upper lobe pulmonary nodules measuring up to 4 
mm in the 
background of underlying emphysema. 
4. 2.1 cm calcified splenic artery aneurysm. 
5. Extensive calcified atherosclerotic disease involving the 
aorta and 
coronary arteries. 
 
Brief Hospital Course:
Mr. ___ is a ___ year old man with PMHx dementia (baseline 
AAOx1, conversant
with short phrases), CAD, anemia, CKD who presented after an 
un-witnessed fall at ___, who was noted to have 
an asymptomatic incidental large pleural effusion noted on CT 
trauma imaging to evaluate his head/neck post head strike. CT 
chest notable for large left pleural effusion and multiple 
pulmonary nodules c/f malignancy.  

# Goals of Care
Discussed with patient's family, including HCP ___, the 
significance of the left pleural effusion and that this is 
concerning for cancer in setting of associated pulmonary 
nodules, patient's history of cancer, and smoking history.  
There was no suspicion for infection. Discussed with family that 
the risks of performing a thoracentesis for diagnostic and 
therapeutic purposes are significant and may include bleeding, 
infection, pain, delirium, and lung damage.  Discussed with the 
family that sampling the pleural effusion may or may not give 
them an answer as to what is causing the effusion in the first 
place and that sampling the fluid or removing the fluid is 
unlikely to change their father's mortality in the long term.  
Given the patient is asymptomatic and the effusion was found 
incidentally, it would likely cause more harm than good to 
pursue invasive testing. His family is in agreement that if 
there is cancer, it would not be within the patient's goals to 
treat the cancer, and it is unlikely that their father is a 
candidate for treatment.  The patient's family ultimately 
decided not to pursue further diagnostic testing or drainage of 
the effusion.  They felt their father would be best served 
outside of the hospital and to return to ___.  
They hope to continue care at ___ as he had been 
getting prior to admission and will discuss with staff there the 
possibility for palliative care consultation or transition to 
hospice care if their father were to get symptomatic from his 
effusion (i.e. dyspnea, hypoxemia, pain, agitation).  Mr. 
___ is DNR/DNI per MOLST in chart.  They are unsure about 
transfer back to hospital.  Their priority is their father's 
___ and ___ being.    

# Large LLL pleural effusion  
Found incidentally to have new large L pleural effusion on the 
background of multiple
pulmonary nodules on Chest CT concerning for metastatic 
malignancy. Of note, patient has a remote history of cancer of 
the larynx (s/p radiation) and a 90+ pack-year smoking history, 
both of which represent significant risk factors. No infectious 
symptoms, fever or leukocytosis.  Did not suspect infection.  
Patient stable, breathing comfortably and without symptoms.  
Suspect effusion has developed very slowly over time given he is 
well compensated.  Applied 2L O2 NC for goal O2 sat >89% given 
smoking history. 

# Fall with head strike  
Patient with unwitnessed fall and head strike at nursing 
facility.  Suspected to have fallen out of bed and may be 
mechanical.  Telemetry was normal sinus >48 hours.  Did not 
suspect cardiogenic in etiology.  Patient was a bit more sleepy 
than baseline which may be delirium versus poor sleep versus 
post concussion syndrome. 

# Chronic issues
All chronic issues such as CKD, anemia, CAD were stable and home 
medications were otherwise unchanged.

TRANSITIONAL ISSUES:
===================
- Goal o2 sat >89% given pt has significant smoking history, 
please monitor oxygenation
- Please monitor for symptoms from left pleural effusion such as 
dyspnea, hypoxia, cough, pain, agitation, delirium.
- Patient's family expressed interest in possibly pursuing 
hospice services if their father's respiratory status and 
clinical status were to decline further.  Please discuss 
palliative and hospice care with them as outpatient.  Patient's 
family is unsure if they will have their father return to the 
hospital. 
- Patient's family expressed concern regarding patient's recent 
mechanical falls including one out of bed, prompting ED 
evaluation/admission.  Please ensure patient safety during 
transport and while in room unsupervised. 
- MOLST DNR/DNI
- HCP: ___ (son); Phone number: ___ 
 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. Ferrous Sulfate 325 mg PO DAILY 
2. Polyethylene Glycol 17 g PO DAILY 
3. Cyanocobalamin 500 mcg PO DAILY 
4. Sertraline 25 mg PO DAILY 
5. Mirtazapine 7.5 mg PO QHS 
6. Acetaminophen 650 mg PO BID 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO BID  
2.  Cyanocobalamin 500 mcg PO DAILY  
3.  Ferrous Sulfate 325 mg PO DAILY  
4.  Mirtazapine 7.5 mg PO QHS  
5.  Polyethylene Glycol 17 g PO DAILY  
6.  Sertraline 25 mg PO DAILY  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Mechanical fall
Large left pleural effusion
Multiple pulmonary nodules
Dementia 

 
Discharge Condition:
Mental Status: Confused - always.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to the hospital after you fell out of bed.  
You had imaging of your head and neck which did not show any 
broken bones or bleeding.  You had imaging of your chest which 
showed fluid in the left side of your lung space (in the space 
between your left lung and your left chest wall).  There are 
nodules in your left lung concerning for cancer.  

After talking to your family, your effusion was not drained 
because you are feeling well and it was felt that the risks of 
draining the fluid would outweigh the benefits.  You then left 
the hospital to go back to ___.  

Please let the staff at ___ know if you are having trouble 
breathing, pain, or feel unwell.

We wish you the best,

Your ___ Care Team
 
Followup Instructions:
___